US06492370B1
(2S)-2-[3-[2-Mercapto-1-(mercaptomethyl)ethyl]-3-phenethylureido]-3-phenylpropionic acid (Compound No. 9-1)
A solution of benzyl (2S)-2-[3-[2-(benzylthio)-1[(benzylthio)methyl]ethyl]-3-phenethylureido]-3-phenylpropionate (Compound No. 1-72, 996 mg) in anhydrous tetrahydrofuran (20 ml) is added dropwise to liquid ammonia (80 ml) under a nitrogen atmosphere and dry ice-methanol cooling. Then, metallic sodium (300 mg) by portions is added thereto until coloration does not disappear, and the mixture is stirred as it is for one hour. Ammonium chloride by portions is added to the reaction mixture to decolorize it, and then a nitrogen gas is bubbled through the mixture at room temperature to evaporate ammonia. To the resulting residue is added 1 N hydrochloric acid to acidify it, and the whole is extracted with ethyl acetate. The organic layer is washed with water and saturated brine successively, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give the titled compound (Compound No. 9-1).

reactant | benzyl (2S)-2-[3-[2-(benzylthio)-1[(benzylthio)methyl]ethyl]-3-phenethylureido]-3-phenylpropionate | C(C1=CC=CC=C1)SCC(CSCC1=CC=CC=C1)N(C(N[C@H](C(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1)=O)CCC1=CC=CC=C1 | C42H44N2O3S2
reactant | ammonia | 80 ml | N | H3N
reactant | dry ice methanol | C(=O)=O.CO
reactant | sodium | 300 mg | [Na] | Na
reactant | Ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | (2S)-2-[3-[2-Mercapto-1-(mercaptomethyl)ethyl]-3-phenethylureido]-3-phenylpropionic acid | SCC(CS)N(C(N[C@H](C(=O)O)CC1=CC=CC=C1)=O)CCC1=CC=CC=C1 | C21H26N2O3S2
